US07790747B2
5-Bromo-4,6-dimethyl-pyridin-2-ylamine (1.51 g, 7.5 mmol) and chloroacetaldehyde (0.95 ml, 50% in water, 7.5 mmol) were mixed with toluene (12 ml). The mixture was heated to reflux for 3 h, upon which time a dark solid residue appeared at the bottom of the reaction flask. After cooling down to rt, NaHCO3 (20 ml, sat. aq.) and CH2Cl2 (20 ml) were added. Layers were separated and the aqueous layer was further extracted with CH2Cl2 (20 ml×2). The combined CH2Cl2 was dried (Na2SO4), filtered and concentrated. The residue was purified by column chromatography on silica gel (CH2Cl2/CH3OH, 18:1) to give the 6-bromo-5,7-dimethyl-imidazo[1,2-a]pyridine as a yellow oil (985 mg, 58%, contaminated with some starting material).

reactant | 5-Bromo-4,6-dimethyl-pyridin-2-ylamine | 7.5 mmol, 1.51 g | BrC=1C(=CC(=NC1C)N)C | C7H9BrN2
reactant | chloroacetaldehyde | 7.5 mmol, 0.95 ml | ClCC=O | C2H3ClO
reactant | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 6-bromo-5,7-dimethyl-imidazo[1,2-a]pyridine | BrC=1C(=CC=2N(C1C)C=CN2)C | C9H9BrN2
